US06613775B1
Synthesis of Ethyl 8-Amino-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate
A solution of 2,3-diamino-5-methyl-pyridine (2.3 g, 19 mmol) and 3-bromo-2-oxo-butyric acid ethyl ester (4.3 g, 21 mmol) in ethanol (25 ml) was refluxed for 20 h. Sodium carbonate (2.6 g, 25 mmol) was added and the mixture was filtrated and the solids were washed with ethanol. The filtrate and washings were combined and evaporated under reduced pressure. The residue was dissolved in methylene chloride, washed twice with a sodium carbonate solution and twice with water. The organic layer was separated dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent gave 1.3 g (30%) of the title compound as an oil.

reactant | 2,3-diamino-5-methyl-pyridine | 19 mmol, 2.3 g | NC1=NC=C(C=C1N)C | C6H9N3
reactant | 3-bromo-2-oxo-butyric acid ethyl ester | 21 mmol, 4.3 g | C(C)OC(C(C(C)Br)=O)=O | C6H9BrO3
reactant | Sodium carbonate | 25 mmol, 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Ethyl 8-Amino-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate | 1.3 g, 30% | NC=1C=2N(C=C(C1)C)C(=C(N2)C(=O)OCC)C | C12H15N3O2
